US06372740B1
A mixture of ethyl 4-chloro-2-phenylpyrimidine-5-carboxylate (21 g), glycine (6.6 g), trimethylamine (17.8 g) and ethanol (200 ml) is refluxed for four hours. The reaction mixture is concentrated under reduced pressure, and the residue is dissolved in water. To the mixture is added dropwise conc. hydrochloric acid under stirring at 0-5° C. until the value of the mixture is adjusted to pH 4. The precipitates are collected by filtration, and washed with water to give crude N-(5-ethoxycarbonyl-2-phenyl-4-pyrimidinyl)glycine (24 g).

reactant | ethyl 4-chloro-2-phenylpyrimidine-5-carboxylate | 21 g | ClC1=NC(=NC=C1C(=O)OCC)C1=CC=CC=C1 | C13H11ClN2O2
reactant | glycine | 6.6 g | NCC(=O)O | C2H5NO2
reactant | trimethylamine | 17.8 g | CN(C)C | C3H9N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-(5-ethoxycarbonyl-2-phenyl-4-pyrimidinyl)glycine | 24 g | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=CC=C1)NCC(=O)O | C15H15N3O4
